US06951879B2
In analogy to example 37.5 and 37.6, 3-Butyn-2-ol and 2-Ethylaminoethanol were converted to yield 2-[Ethyl-(1-methyl-prop-2-ynyl)-amino]-ethanol as colorless oil, MS: 141 (M).

reactant | 3-Butyn-2-ol | CC(C#C)O | C4H6O
reactant | 2-Ethylaminoethanol | C(C)NCCO | C4H11NO
product | 2-[Ethyl-(1-methyl-prop-2-ynyl)-amino]-ethanol | C(C)N(CCO)C(C#C)C | C8H15NO
